US07335648B2
3-{6-[6-(3-Ethyl-ureido)-purin-9-yl]-2-styryl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl}-propionic acid methyl ester
3-{6-[6-(3-Ethyl-ureido)-purin-9-yl]-2-styryl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl}-acrylic acid methyl ester (250 mg, 0.5 mmol) was dissolved in dry methanol (3 mL). Copper (II) sulfate (90 mg, 0.5 mmol) was added followed by sodium tetrahydroborate (90 mg, 2.5 mmol) and the reaction was stirred 48 h. The reaction was diluted with water, filtered, and concentrated in vacuo. The residue was dissolved in ethyl acetate and precipitated with heptane. The precipitate was dissolved in dichloromethane and was chromatographed on silica gel with dichloromethane-methanol (95:5) as eluent, affording the title compound (125 mg, 50%). 1H-NMR (300 MHz, d6 DMSO). δ 1.15 (t, 3H, J=7 Hz), 1.90 (m, 2H), 2.19 (m, 2H), 3.21 (q, 2H, J=7 Hz), 3.55 (s, 3H), 4.20 (m, 1H), 4.98 (dd, 1H, J=4 Hz, 6 Hz), 5.45 (dd, 1H, J=3 Hz, 7 Hz), 5.85 (d, 1H, J=6 Hz), 6.25 (d, 1H, J=3 Hz), 6.27 (dd, 1H, J=6 Hz, 16 Hz), 6.90 (d, 1H, J 16 Hz), 7.35 (m, 3H), 7.50 (d, 2H, J=7 Hz), 8.56 (s, 1H), 8.57 (s, 1H), 9.30 (t, 1H, 3=5 Hz), 9.60 (s, 1H).

reactant | 3-{6-[6-(3-Ethyl-ureido)-purin-9-yl]-2-styryl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl}-acrylic acid methyl ester | 0.5 mmol, 250 mg | COC(C=CC1OC(C2OC(OC21)C=CC2=CC=CC=C2)N2C1=NC=NC(=C1N=C2)NC(=O)NCC)=O | C25H26N6O6
reactant | sodium tetrahydroborate | 2.5 mmol, 90 mg | [BH4-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | water | O | H2O
catalyst | Copper (II) sulfate | 0.5 mmol, 90 mg | S(=O)(=O)([O-])[O-].[Cu+2]
product | 3-{6-[6-(3-Ethyl-ureido)-purin-9-yl]-2-styryl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl}-propionic acid methyl ester | 125 mg, 50% | COC(CCC1OC(C2OC(OC21)C=CC2=CC=CC=C2)N2C1=NC=NC(=C1N=C2)NC(=O)NCC)=O | C25H28N6O6
